US04873255
7-Hydroxy-2,8-dimethyl-2-(4-nitrophenoxymethyl)-4-oxochroman
A mixture of 13.5 g or 7-benzyloxy-2,8-dimethyl-2-(4-nitrophenoxymethyl)-4-oxochroman (prepared as described in Preparation 15, 40 ml of concentrated aqueous hydrochloric acid and 80 ml of acetic acid was heated under reflux for 3 hours. At the end of this time, the reaction mixture was poured into water and extracted with benzene. The benzene solution was washed with water and then dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. Cyclohexane was added to the residue to crystallize it. 9.55 g of the title compound were obtained as a pale red powdery substance.

reactant | 7-benzyloxy-2,8-dimethyl-2-(4-nitrophenoxymethyl)-4-oxochroman | C(C1=CC=CC=C1)OC1=CC=C2C(CC(OC2=C1C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C25H23NO6
reactant | hydrochloric acid | 40 ml | Cl | ClH
reactant | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 7-Hydroxy-2,8-dimethyl-2-(4-nitrophenoxymethyl)-4-oxochroman | 9.55 g | OC1=CC=C2C(CC(OC2=C1C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C18H17NO6
